US07470723B2
To a stirred solution of 3-(3-amino-4-methoxy-phenyl)-3-(3-ethoxy-4-methoxy-phenyl)-acrylonitrile (0.20 g, 0.62 mmol) under a nitrogen atmosphere in anhydrous DMF (5 mL) was added Cs2CO3 (0.61 g, 1.86 mmol) and tetrabutylammonium iodide (0.69 g, 1.86 mmol). The mixture was stirred at ambient temperature for 30 minutes. Methyl chloroformate (0.14 mL, 1.86 mmol) was added dropwise into the suspension. The reaction mixture was stirred overnight under a nitrogen atmosphere. After this time, the reaction was diluted with ethyl acetate (50 mL). The solution was washed with water (2×50 mL), sodium carbonate (aq, 50 mL), and then brine (50 mL). The organic layer was dried over sodium sulfate, filtered, and then concentrated. The crude product was purified by silica gel chromatography (1:4:5, EtOAc: CH2Cl2: hexanes) followed by tituration with diethyl ether to afford (Z)-{4-[2-cyano-1-(3-ethoxy-4-methoxy-phenyl)-vinyl]-2-methoxy-phenyl}-carbamic acid methyl ester as a white solid (0.13 g, 55% yield): mp: 148-149° C. 1H NMR (400M Hz, CDCl3) δ 8.20 (s, 1H), 7.23 (s, 1H), 7.00 (m, 2H), 6.90 (d, 1H, J=8.4 Hz), 6.87 (d, 1H, J=2.0 Hz), 6.81 (d, 1H, J=8.4 Hz), 5.59 (s, 1H), 4.10 (q, 2H, J=6.8 Hz), 3.92(s, 3H), 3.91 (s, 3H), 3.78 (s, 3H), 1.45 (t, 3H, J=6.8 Hz). Anal. Calcd for C21H22N2O5: C, 65.96; H, 5.80; N, 7.33. Found: C, 65.99; H, 6.05; N, 7.10.

reactant | 3-(3-amino-4-methoxy-phenyl)-3-(3-ethoxy-4-methoxy-phenyl)-acrylonitrile | 0.62 mmol, 0.20 g | NC=1C=C(C=CC1OC)C(=CC#N)C1=CC(=C(C=C1)OC)OCC | C19H20N2O3
reactant | Cs2CO3 | 1.86 mmol, 0.61 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | Methyl chloroformate | 1.86 mmol, 0.14 mL | ClC(=O)OC | C2H3ClO2
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | tetrabutylammonium iodide | 1.86 mmol, 0.69 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | (Z)-{4-[2-cyano-1-(3-ethoxy-4-methoxy-phenyl)-vinyl]-2-methoxy-phenyl}-carbamic acid methyl ester | 0.13 g, 55% yield | COC(NC1=C(C=C(C=C1)/C(=C/C#N)/C1=CC(=C(C=C1)OC)OCC)OC)=O | C21H22N2O5
